US04010210
Hydrogen sulphide is passed into a solution of 20 g (0.08 mole) of 9-bromoanthracene in decahydronaphthalene at a temperature of 180° C for 14 hours, the solvent is separated by filtration, the residue is recrystallized from toluene to obtain 8.5 g (63.3 percent by weight) of di(9-anthryl) sulphide. This is a yellow crystalline substance melting at 257° C.

reactant | Hydrogen sulphide | S | H2S
reactant | 9-bromoanthracene | 0.08 mole, 20 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
solvent | decahydronaphthalene | C1CCCC2CCCCC12 | C10H18
product | di(9-anthryl) sulphide | 8.5 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)SC=1C2=CC=CC=C2C=C2C=CC=CC12 | C28H18S
